US06008243
To a mixture of N-biphenyl-4-yl-1H-pyrrole (500 mg, 2.28 mmol), dimethylsulfide (0.25 mL, 3.4 mmol), CH2Cl2 (30 mL), and acetonitrile (10 mL) at -10° C. was added dropwise a solution of bromine in CH2Cl2 (5 mL) over 15 minutes. The mixture was allowed to warm to 10° C. over 2 hours. The resultant mixture was washed with 1M pH 7 phosphate buffer (50 mL) and extracted with CH2Cl2 (25 mL). The combined organic layers were dried over Na2SO4 and concentrated to a crude residue which was purified via flash column chromatography with 0-10% CH2Cl2 /hex gradient eluant to furnish 240 mg (40%) of N-(biphenyl-4-yl)-3-bromo-1H-pyrrole as a white solid, mp 141-3° C. 1H NMR: δ 7.65 (d, 2H, J=8.5 Hz), 7.59 (d, 2H, J=8.1 Hz), 7.49-7.34 (m, 5H), 7.12 (s, 1H), 7.02 (t, 1H, J=2.6 Hz), 6.36 (dd, 1H, J=3.2, 1.7 Hz). Anal. Calculated for C16H12NBr: C, 64.45; H, 4.06; N, 4.70; Br, 26.80. Found: C, 64.37; H, 4.10; N, 4.64; Br, 26.69.

reactant | N-biphenyl-4-yl-1H-pyrrole | 2.28 mmol, 500 mg | C1(=CC=C(C=C1)N1C=CC=C1)C1=CC=CC=C1 | C16H13N
reactant | dimethylsulfide | 3.4 mmol, 0.25 mL | CSC | C2H6S
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | bromine | BrBr | Br2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(biphenyl-4-yl)-3-bromo-1H-pyrrole | 240 mg, 40% | C1(=CC=C(C=C1)N1C=C(C=C1)Br)C1=CC=CC=C1 | C16H12BrN
